US07074794B2
2-Fluoroaniline (10.0 g), ethyl trifluoroacetoacetate (16.6 g) and concentrated hydrochloric acid (0.1 mL) were dissolved in benzene (40 mL), and the mixture was refluxed in a reaction vessel equipped with Dean-Stark trap for 7 hr. The reaction mixture was concentrated under reduced pressure and 75% phosphoric acid (40 mL) was added thereto. The mixture was stirred at 110° C. for 5 hr. The reaction mixture was added to water, neutralized with sodium hydrogencarbonate, and extracted with ethyl acetate. The extract was concentrated under reduced pressure to give 8-fluoro-4-hydroxy-2-trifluoromethylquinoline (1.77 g).

reactant | 2-Fluoroaniline | 10.0 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | ethyl trifluoroacetoacetate | 16.6 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 8-fluoro-4-hydroxy-2-trifluoromethylquinoline | 1.77 g | FC=1C=CC=C2C(=CC(=NC12)C(F)(F)F)O | C10H5F4NO
